* C:\Users\user\Desktop\spice\regulator\ADP5071\ADP5071regulator.asc
R2 N005 0 113k
R1 N003 N005 2.15Meg
R6 N018 0 12k
C5 N017 N018 47n
L1 N001 N002 2.2u
D1 N002 N003 MBRS140
C1 N003 0 10u
C4 N016 0 1u
V1 En 0 5
R5 N015 N016 100k
R4 N011 N015 2.1Meg
L2 N010 0 3.3u
D2 N011 N010 MBRS140
C3 N011 0 10u
R3 N009 0 8.2k
C2 N008 N009 47n
XU1 N014 En N017 En N002 En N008 N005 NC_01 0 N014 NC_02 N015 0 N001 En En N016 N010 ADP5070_1 CL1=2.2 CS1=80m Ron1=175m CL2=1.32 CS2=80m Ron2=350m IQ=3.5m SS=1 CL_INBK1=2 CL_INBK2=3
L3 N003 N004 33u
L4 N011 N012 33u
XU2 N004 N007 En N006 out1 0 ADP7118 Vref=1.2
C6 N004 0 1u
C7 N012 0 2.2u
R7 out2 N013 68k
R8 N013 0 15k
R9 out1 N007 100k
R10 N007 0 8.2k
C8 out1 0 2.2u
C9 out2 0 2.2u
C12 N006 0 1n
XU3 0 N012 N012 N013 out2 LT1964-SD
.model D D
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 6m startup
.lib ADP5070_1.sub
.lib ADP7102.lib
.lib LT1964.lib
.backanno
.end
